* BEGIN MODEL PA107
* PINOUT ORDER -IN +IN OUT +Vaux +Vsp -Vsp -Vaux +Vs -Vs
* PINOUT ORDER  36  35  20   22   19   29    25   43  44
.SUBCKT PA107 36 35 20 22 19 29 25 43 44
C15 6 5 47P
C16 3 4 47P
C22 28 27 2200P
C23 35 26 47P
C24 24 36 47P
D1 35 22 N4448
D2 3 32 N4448
D3 30 35 N4448
D5 31 5 N4448
D6 25 35 N4448
D7 35 34 N4448
D9 38 27 DZR01
D10 38 28 DZR01
D11 41 22 DZR01
D12 25 42 DZR01
DQ8 35 1 N4448
DQ18 11 35 N4448
J1 22 23 24 J3955
J2 24 25 25 J3955
M1 19 15 20 20 VN03 
M2 29 sX5 20 20 VP03 
Q1 8 8 21 QNPN1
Q2 21 21 30 QNPN2
Q3 7 8 4 QNPN1
Q5 2 2 7 QNPN1
Q6 15 7 16 QPNP3
Q7 15 7 17 QPNP3
Q9 22 24 31 QNPN2
Q10 25 24 32 QPNP2
Q11 33 33 34 QPNP2
Q12 10 10 33 QPNP1
Q13 9 10 6 QPNP1
Q14 12 12 9 QPNP1
Q16 sX5 9 14 QNPN3
Q17 sX5 9 18 QNPN3
Q19 10 42 40 QNPN2
Q20 8 41 39 QPNP2
R2 1 2 100
R3 1 16 50
R4 1 17 50
R5 36 23 50
R6 3 4 100
R7 28 4 560
R8 15 gX5 418
R9 5 6 100
R10 gX5 sX5 300
R11 36 26 22K
R12 6 28 560
R13 35 27 510
R15 11 12 100
R16 11 14 50
R17 11 18 50
R19 22 39 330
R20 25 40 330
R21 35 41 12K
R22 35 42 12K
RNEGATIVE 11 44 1M
RPOSITIVE 43 1 1M
X4 26 27 22 25 28 OPAMP1
X5 15 gX5 sX5 VN05
.MODEL J3955 NJF (AF=500.784765M BETA=1.619123M CGD=1.798407P CGS=3.810991P 
+ KF=2.813542E-019 LAMBDA=7M PB=167.5348M RS=149.945459 VTO=-2.254224)
.MODEL QNPN1 NPN (BF=190.057 BR=775.353M CJC=7.43951P CJE=19.0793P IKF=11.4991M 
+ IKR=94.8382 IS=16.7422F ISC=100P ISE=999.79F ITF=9.97075M MJC=402.076M 
+ MJE=470.834M NE=1.71526 NF=946.342M RE=2 TF=1.32356N TR=10N VAF=100 
+ VJC=700.018M VJE=749.837M VTF=10 XTF=500.002M)
.MODEL QPNP2 PNP (BF=205.681 BR=1.81984 CJC=6.23478P CJE=5.991P FC=500.001M 
+ IKF=90.7007M IKR=619.972 IS=9.93455F ISC=6.45794P ISE=1.00065P ITF=9.95321M 
+ MJC=318.069M MJE=300M NE=1.98839 NF=1.0517 RE=855.895M TF=566.528P 
+ TR=194.557N VAF=57.3667 VJC=700.104M VJE=705.438M VTF=10 XTF=500.002M)
.MODEL QPNP1 PNP (BF=132.972 BR=44.7547M CJC=7.43951P CJE=19.0793P IKF=70.0405M 
+ IKR=873.505 IS=12.5594F ISC=100P ISE=1.01612P ITF=9.96726M MJC=402.076M 
+ MJE=470.834M NE=1.51207 NF=932.592M RC=123.543M RE=1.00401 TF=1.32496N TR=10N
+ VAF=100 VJC=700.018M VJE=749.837M VTF=10 XTF=499.996M)
.MODEL QNPN2 NPN (BF=326.427 BR=528.632M CJC=3.66441P CJE=4.42095P IKF=26.7378M 
+ IKR=980.247 IS=10.0184F ISC=100P ISE=999.933F ITF=10.1029M MJC=300M 
+ MJE=423.145M NE=1.72338 NF=1.01772 RE=1.47525 TF=477.297P TR=595.818N 
+ VAF=101.811 VJC=700.503M VJE=1 VTF=10 XTF=500.027M)
.MODEL QPNP3 PNP (BF=100.529 BR=22.9815M CJC=20.7035P CJE=83.1796P IKF=57.0778M 
+ IKR=10M IS=6.48217F ISC=.00495831F ISE=990.279F ITF=33.6158M MJC=497.849M 
+ MJE=408.289M NE=1.58329 NF=943.972M RC=2 RE=979.309M TF=1.51901N TR=10N 
+ VAF=100 VJC=750.018M VJE=998.333M VTF=10.0174 XTF=3.09821)
.MODEL QNPN3 NPN (BF=199.994 BR=1.08729 CJC=12.3409P CJE=49.243P IKF=10K 
+ IKR=300.7M IS=25.1183F ISC=.0136691F ISE=991.903F ITF=9.96656M MJC=486.179M 
+ MJE=381.836M NC=2.00003 NE=1.49482 NF=998.408M RC=1.92096 RE=1.86192 
+ TF=2.77598N TR=10N VAF=100 VJC=738.958M VJE=751.471M VTF=10 XTF=499.995M)
.MODEL VP03 PMOS (LEVEL=3 CBD=397.523584P CGDO=257P CGSO=397.523584P GAMMA=0 
+ KP=15U L=2U KAPPA=218.484656F PHI=600M RD=4.8 RDS=1.75MEG
+ RS=.144 TPG=1 UO=600 VTO=-3.5 W=55.569587M)
** REMOVED NSUB=0 TOX=0 RG=10
.MODEL VN03 NMOS (LEVEL=3 CBD=283.945417P CGDO=321P CGSO=298.468248P FC=0 
+ GAMMA=0 KP=21U L=2U KAPPA=6.322808M MJ=6.322808M PB=2.561003 PHI=600M
+ RD=2.1 RDS=3.5MEG TPG=1 UO=600 VTO=2.561003 W=112.765415M)
*** Params not used in spice RL=1G
** REMOVED NSUB=0 TOX=0 RG=23
.MODEL DZR01 D (IS=5.72393F BV=3.15 IBV=1M RS=28 CJO=304.407P VJ=749.998M   
+ M=495.751M)
.MODEL N4448 D (IS=0.1P RS=2 CJO=2P TT=12N BV=100 IBV=0.1M)
*
.ENDS PA107
.SUBCKT OPAMP1  1 2 3 4 5
*
  c1   11 12 2.887E-12
  c2    6  7 10.50E-12
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 10.94E6
+ -10E6 10E6 10E6 -10E6
  ga    6  0 11 12 241.9E-6
  gcm   0  6 10 99 2.419E-9
  iss   3 10 dc 130.0E-6
  hlim 90  0 vlim 1K
  j1   11  2 10 jx
  j2   12  1 10 jx
  r2    6  9 100.0E3
  rd1   4 11 4.134E3
  rd2   4 12 4.134E3
  ro1   8  5 40
  ro2   7 99 40
  rp    3  4 21.43E3
  rss  10 99 1.538E6
  vb    9  0 dc 0
  vc    3 53 dc 2.67
  ve   54  4 dc 2.67
  vlim  7  8 dc 0
  vlp  91  0 dc 20
  vln   0 92 dc 20
.model dx D(Is=800.0E-18)
.model jx PJF(Is=25.00E-12 Beta=450.1E-6
+ Vto=-1)
.ends OPAMP1
.SUBCKT VN05 3 4 5
* Nodes        D G S
M1 3 2 5 5 MOD1
RG 4 2 343
RL 3 5 6E6
C1 2 5 23.5P
C2 3 2 4.5P 
D1 5 3 DIODE1
*
.MODEL MOD1 NMOS VTO=2.474 RS=1.68 RD=0.0 IS=1E-15 KP=0.296
+CBD=53.5P PB=1 LAMBDA=267E-6
.MODEL DIODE1 D IS=1.254E-13 N=1.0207 RS=0.222
.ENDS VN05
* END MODEL PA107
